US07511042B2
5-tert-Butyl-2-methoxy-3-nitro-benzoic acid:
To a suspension of 2.10 g (10.1 mmol) of 2-methoxy-5-tert-butylbenzoic acid in 6 mL of conc H2SO4 cooled in an ice bath was added dropwise a solution of 1 mL (11.1 mmol) of HNO3 in 2 ml H2SO4. The mixture was stirred, warming from 0° C. to rt over 3 h. The mixture was then poured into crushed ice and the resulting precipitate was filtered and dried. Recrystallization from 1:1 water/EtOH (8 mL/g) provided 1.4 g of product Intermediate 10.

reactant | 2-methoxy-5-tert-butylbenzoic acid | 10.1 mmol, 2.10 g | COC1=C(C(=O)O)C=C(C=C1)C(C)(C)C | C12H16O3
reactant | HNO3 | 11.1 mmol, 1 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
product | 5-tert-Butyl-2-methoxy-3-nitro-benzoic acid | 1.4 g | C(C)(C)(C)C=1C=C(C(=C(C(=O)O)C1)OC)[N+](=O)[O-] | C12H15NO5
